Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
facial swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female with a PMH notable for
hypertension and hyperlipidemia who presents with syncope left
facial swelling and rash.

About a week ago, the patient noticed a new rash on her left
forehead and skin around the eye which became vesicular and
opened up. The rash was initially painful but then improved 
after
the lesion opened. She went to see her optometrist on ___ and
was diagnosed with herpes zoster ophthalmicus with left eye
involvement and was prescribed acyclovir 800 mg PO 5 times per
day. Unfortunately, the rash didn't seem to have improved much
since starting acyclovir, and the area around the eye has become
more swollen. She reports no new difficulty seeing, worsening
vision, double vision, or blind spots.

Since the onset of the rash, she's been feeling generally unwell
with poor appetite and water intake. The night before
presentation, she got up to go to the bathroom, and while 
walking
with the aid of her husband, she suddenly lost consciousness and
slide to the ground. She woke up after about 2 minutes, and her
husband called an ambulance. She recalls no symptoms of chest
pain, palpitations, or dyspnea prior. She has no prior history 
of
heart disease.

She initially went to ___ ED and was transferred 
to
___ due to lack of ophthalmology coverage. Here, ophthalmology
evaluated the patient and recommended topical treatments for 
left
herpes zoster ophthalmicus. ED physician was concerned for 
facial
cellulitis and gave cefazolin and vancomycin.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
- hypertension
- hyperlipidemia
 
Social History:
___
Family History:
FAMILY HISTORY:
No diseases that she can recall.
 
Physical Exam:
Admission Exam
VITALS: ___ Temp: 100.8 PO BP: 132/73 L Sitting HR: 68
RR: 18 O2 sat: 92% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress.
EYES: Left periorbital area significantly swollen and
erythematous. Unable to open the left eye due to swelling. Right
eye appears normal with reactive pupils.
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Dry
mucous membranes.
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with decreased air movement
bilaterally at the bases.  Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs.
SKIN: Left forehead with rash that doesn't cross midline and
scattered blisters with scabbing. No other rashes or ulcerations
noted.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout.
PSYCH: pleasant, appropriate affect.

Discharge Exam
-----------------
Vitals reviewed and notable for T-max 102.9 the night prior, but 
afebrile today.  Blood pressures, heart rates, respirations, and 
O2 saturation all unremarkable.  Patient voiding without 
difficulty.  Older woman lying in bed, alert, cooperative, NAD.  
Anicteric on the right, left eyelid and left forehead 
erythematous and slightly swollen, with some yellowish scabbing. 
 Lesions do not cross the midline, and do not extend lower on 
the face.  Moist mucous membranes.  Equal chest rise, CTAB, no 
WOB or cough.  Heart regular, no obvious murmurs, rubs, or 
gallops.  Abdomen soft, NTND.  Extremities warm and 
well-perfused, no pitting edema.  No other skin lesions noted.  
No obvious focal neurological deficits.  Normal affect.
 
Pertinent Results:
Admission Labs
___:35PM   LACTATE-1.2 K+-3.6
___ 01:25PM   GLUCOSE-116* UREA N-18 CREAT-0.8 SODIUM-130* 
POTASSIUM-3.9 CHLORIDE-91* TOTAL CO2-23 ANION GAP-16
___ 01:25PM   WBC-8.0 RBC-4.89 HGB-12.6 HCT-38.7 MCV-79* 
MCH-25.8* MCHC-32.6 RDW-13.5 RDWSD-38.5
___ 01:25PM   NEUTS-70.9 LYMPHS-15.4* MONOS-12.7 EOS-0.4* 
BASOS-0.3 IM ___ AbsNeut-5.66 AbsLymp-1.23 AbsMono-1.01* 
AbsEos-0.03* AbsBaso-0.02
___ 01:25PM   PLT COUNT-160
___ 01:25PM   ___ PTT-25.1 ___

Micro
___ 1:25pm Blood Culture, Routine (Pending)

Discharge Labs
___ 08:00AM BLOOD WBC-7.2 RBC-4.79 Hgb-12.2 Hct-38.1 
MCV-80* MCH-25.5* MCHC-32.0 RDW-13.4 RDWSD-38.2 Plt ___
___ 08:00AM BLOOD Glucose-102* UreaN-14 Creat-0.8 Na-134* 
K-3.4* Cl-97 HCO3-23 AnGap-14
___ 08:00AM BLOOD Calcium-8.4 Phos-2.7 Mg-2.___ woman w/PMHx hypertension and hyperlipidemia, who presented 
with syncope, left facial swelling and rash suggestive of facial 
cellulitis without complication.

On the day of discharge the patient was feeling much better and 
was very eager to go home.  She described having a good home 
situation with support should she need to seek additional care.  
With her daughter and husband present, we reviewed her fever and 
warning signs for which to return, her medications and the 
importance of follow-up, and she will contact her primary care 
physician's office on ___ to arrange this.  She had no 
additional questions for me.

# Herpes Zoster Ophthalmicus
# Facial Cellulitis
Had been recently diagnosed with Zoster ophthalmicus, and given 
appearance of left face rash, concern for possible superimposed 
bacterial infection on top of herpes zoster lesions.  ED started 
IV cefazolin and vancomycin, and the patient was seen by 
Opthalmology who recommended a number of interventions.  She did 
have a fever after admission, but defervesced, and the day of 
discharge she felt much better, had no fever, the area was less 
itchy and edematous, and she was able to see out of her eye (by 
propping open her eyelids on the left, which she hadn't been 
able to do for a number of days) without visual problems.  
Opthalomology recommended the following:
- acyclovir 800 mg PO five times a day for 10 days total (she 
had 5d left on her prior prescription)
- in addition, we transitioned her IV abx to oral amoxicillin 
and TMP/SMX for a total of 7 days treatment -- she was advised 
to seek a higher level of care if her fever returned, or she 
noted increased swelling or pain or redness
- Erythromycin eye ointment 3x a day to left eye x 10 days
- Brimonidine eyedrops 3x a day to left eye x 2 weeks or until 
follow-up with Ophthalmology
- Bacitracin ointment 3x a day over skin lesions
- Refresh lubricating eyedrops q4 hours or prn to both eyes
- Lid hygiene prn c/o patients or relatives to remove debris and 
eye discharge
- Warm compresses to periocular skin TID or prn
- APAP and ibuprofen PRN mild pain
- Follow up in ___ days with an Ophthalmologist (patient 
doesn't have one, but says she has a good relationship with her 
PCP ___ in ___ and that he will be able to refer 
her)

# Hyponatremia
# Hypovolemia
Appeared to be hypovolemic on exam with dry mucous membranes and 
reported poor PO intake in the setting of ongoing intake of HCTZ 
and other anti-hypertensives. Encouraged PO intake, which she 
tolerated well, and her Na improved to 134 on the day of 
discharge.  She can follow-up as an outpatient about this.

# Syncope
She had no cardiac history and a reassuring exam and ECG 
findings. Also, setting of likely dehydration and ongoing use of 
anti-hypertensive medications suggest more neurocardiogenic 
syncope than cardiac etiology.  No further work up was 
indicated, and her anti-hypertensives were held while 
encouraging PO intake.

# Hypertension
# Hyperlipidemia
She was encouraged to slowly restart her home medications, 
metoprolol first, then lisinopril, and HCTZ last. Continued 
atorvastatin and ASA.

[x] The patient is safe to discharge today, and I spent [ ] 
<30min; [x] >30min in discharge day management services.

___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Acyclovir 800 mg PO 5X/D 
4. Atorvastatin 80 mg PO QPM 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 325 mg 2 tablet(s) by mouth Q6H:PRN Disp #*20 
Tablet Refills:*0 
2.  Amoxicillin 500 mg PO Q8H 
RX *amoxicillin 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*21 Tablet Refills:*0 
3.  Artificial Tears Preserv. Free ___ DROP BOTH EYES Q4H 
RX *dextran 70-hypromellose (PF) [Artificial Tears (PF)] 0.1 
%-0.3 % ___ drops ___ every four (4) hours Disp #*1 Each 
Refills:*0 
4.  Bacitracin Ointment 1 Appl TP TID 
RX *bacitracin zinc 500 unit/gram 1 application three times a 
day Refills:*1 
5.  Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE TID 
RX *brimonidine 0.15 % 1 drop in the left eye three times a day 
Refills:*0 
6.  Erythromycin 0.5% Ophth Oint 0.5 in LEFT EYE TID 
RX *erythromycin 5 mg/gram (0.5 %) 1 appl in the left eye three 
times a day Refills:*0 
7.  Ibuprofen 400 mg PO Q8H:PRN pain/fever 
RX *ibuprofen 400 mg 1 tablet(s) by mouth Q8H:PRN Disp #*10 
Tablet Refills:*0 
8.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*28 Tablet Refills:*0 
9.  Acyclovir 800 mg PO 5X/D 
RX *acyclovir 800 mg 1 tablet(s) by mouth five times a day Disp 
#*25 Tablet Refills:*0 
10.  Aspirin 81 mg PO DAILY  
11.  Atorvastatin 80 mg PO QPM  
12. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until ___, 
___ at the earliest.
13. HELD- Lisinopril 10 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until ___ at the earliest.
14. HELD- Metoprolol Succinate XL 100 mg PO DAILY  This 
medication was held. Do not restart Metoprolol Succinate XL 
until ___ at the earliest.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Herpes zoster ophthalmicus (shingles around the left eye)
Facial cellulitis (bacterial infection)
Orthostasis leading to syncope
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were recently diagnosed with Zoster ophthalmicus, but 
despite taking acyclovir didn't improve and developed an 
additional rash concerning for a superimposed bacterial 
infection (also known as cellulitis).  You were given 
antibiotics and seen by the Opthalmology team who recommended a 
number of interventions:
- acyclovir 800 mg PO five times a day for 10 days total
- antibiotics (amoxicillin and trimethoprim/sulfamethoxazole) 
for a total of 7 days
- seek a higher level of care if you have fever, or you have 
increased swelling or pain or redness
- erythromycin eye ointment three times a day to left eye for 10 
days
- brimonidine eyedrops three times a day to left eye for 2 weeks 
or until follow-up with Ophthalmology
- bacitracin ointment three times a day over skin lesions
- lubricating eyedrops every four or as needed to both eyes
- clean the left eyelid gently as needed to remove debris and 
eye discharge
- warm compresses to the skin around the eye three times a day 
or as neede
- take Tylenol and/or Aleve as needed for pain
- Follow up in ___ days with an Ophthalmologist (you said you 
don't have one, but that your PCP, ___ in ___, 
___ be able to refer you -- please call him ___

For your mild dehydration recently, that led to you pass out and 
fall, please stay well hydrated.  Your urine should be a light 
yellow color. 
 This is especially important while taking acyclovir.

Slowly restart your home anti-hypertensive medications, HCTZ 
first, then metoprolol and lisinopril last.
 
Followup Instructions:
___